US04496572
Conversion of 5-bromo-2-methylbenzo[b]thiophene to the Grignard reagent followed by reaction with carbon dioxide by the method of Example 3(i) gave 2-methylbenzo[b]thiophene-5-carboxylic acid, m.p. 220°-222° C.

reactant | 5-bromo-2-methylbenzo[b]thiophene | BrC1=CC2=C(SC(=C2)C)C=C1 | C9H7BrS
reactant | carbon dioxide | C(=O)=O | CO2
product | 2-methylbenzo[b]thiophene-5-carboxylic acid | CC1=CC2=C(S1)C=CC(=C2)C(=O)O | C10H8O2S
